US04297480
490 g (1.84 mols) of 2,2-dimethyl-11-isopropyl-11-aminoundeca-4,8-dienal-oxime is dissolved in 2.4 liters of methanol, and the solution is transferred, together with about 200 g of liquid ammonia, with the addition of 150 g of Raney nickel, to a 6.3-liter steel autoclave. Hydrogen is subsequently injected to give a pressure of 100 bars, and the temperature is raised to 100° C. as stirring is maintained. Hydrogenation is performed for about 5 hours under these conditions; the mixture is then cooled, and the ammonia and excess hydrogen are released. Subsequent distillation under high vacuum yields 436 g (1.705 mols) of 1-isopropyl-10,10-dimethyl-1,11-diaminoundecane in the form of colourless liquid as clear as water; b.p. 87° C./4 Pa; nD20 =1.4619.

reactant | 2,2-dimethyl-11-isopropyl-11-aminoundeca-4,8-dienal-oxime | 1.84 mols, 490 g | CC(C=NO)(CC=CCCC=CCC(N)C(C)C)C | C16H30N2O
reactant | ammonia | N | H3N
reactant | Hydrogen | [H][H] | H2
reactant | water | O | H2O
solvent | methanol | 2.4 liters | CO | CH4O
catalyst | Raney nickel | 150 g | [Ni] | Ni
product | 1-isopropyl-10,10-dimethyl-1,11-diaminoundecane | 1.705 mols, 436 g | C(C)(C)C(CCCCCCCCC(CN)(C)C)N | C16H36N2
